** Name: SimpleTwoStageOpAmp_SimpleOpAmp114_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp114_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=286e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=339e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=303e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=98e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos8 outFirstStage outVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=22e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=68e-6
mNormalTransistorNmos10 sourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=339e-6
mNormalTransistorNmos11 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=22e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=22e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=22e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=286e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=562e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=98e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=296e-6
mNormalTransistorPmos18 outVoltageBiasXXnXX2 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=169e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp114_7

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 8.22701 mW
** Area: 13076 (mu_m)^2
** Transit frequency: 33.7981 MHz
** Transit frequency with error factor: 33.769 MHz
** Slew rate: 60.5245 V/mu_s
** Phase margin: 55.577°
** CMRR: 95 dB
** VoutMax: 4.65001 V
** VoutMin: 0.220001 V
** VcmMax: 4.34001 V
** VcmMin: 1.29001 V


** Expected Currents: 
** NormalTransistorNmos: 136.896 muA
** NormalTransistorPmos: -132.105 muA
** NormalTransistorPmos: -75.4319 muA
** NormalTransistorNmos: 41.9021 muA
** NormalTransistorNmos: 41.9021 muA
** DiodeTransistorPmos: -41.9029 muA
** NormalTransistorPmos: -41.9029 muA
** NormalTransistorNmos: 159.235 muA
** DiodeTransistorNmos: 159.234 muA
** NormalTransistorNmos: 41.9021 muA
** NormalTransistorNmos: 41.9021 muA
** NormalTransistorNmos: 1207.07 muA
** NormalTransistorPmos: -1207.06 muA
** DiodeTransistorNmos: 132.106 muA
** NormalTransistorNmos: 132.106 muA
** DiodeTransistorNmos: 75.4311 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -136.895 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.08801  V
** outInputVoltageBiasXXnXX1: 1.14201  V
** outSourceVoltageBiasXXnXX1: 0.571001  V
** outVoltageBiasXXnXX2: 2.65001  V
** outVoltageBiasXXpXX0: 4.08101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** out1: 4.08901  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V
** inner: 0.571001  V


.END