** Name: SimpleTwoStageOpAmp_SimpleOpAmp33_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp33_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=7e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=26e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=574e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=57e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=7e-6 W=33e-6
mDiodeTransistorPmos7 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=87e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos9 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=574e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=33e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=72e-6
mNormalTransistorNmos12 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=133e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=137e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=26e-6
mNormalTransistorPmos16 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=7e-6 W=148e-6
mNormalTransistorPmos17 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=265e-6
mNormalTransistorPmos18 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=315e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=87e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp33_9

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 14.8921 mW
** Area: 6873 (mu_m)^2
** Transit frequency: 39.6491 MHz
** Transit frequency with error factor: 39.6173 MHz
** Slew rate: 37.3678 V/mu_s
** Phase margin: 56.1499°
** CMRR: 101 dB
** negPSRR: 101 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.870001 V
** VcmMax: 4.09001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 22.0171 muA
** NormalTransistorNmos: 47.8651 muA
** NormalTransistorPmos: -120.342 muA
** DiodeTransistorPmos: -43.8079 muA
** NormalTransistorPmos: -43.8079 muA
** NormalTransistorPmos: -43.8079 muA
** NormalTransistorNmos: 87.6131 muA
** NormalTransistorNmos: 87.6121 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 2690.66 muA
** DiodeTransistorNmos: 2690.66 muA
** NormalTransistorPmos: -2690.65 muA
** DiodeTransistorNmos: 120.343 muA
** NormalTransistorNmos: 120.343 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -22.0179 muA
** DiodeTransistorPmos: -47.8659 muA


** Expected Voltages: 
** ibias: 1.18701  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.28001  V
** outSourceVoltageBiasXXnXX1: 0.640001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXpXX0: 4.10801  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.02501  V
** innerStageBias: 0.631001  V
** innerTransistorStack2Load1: 4.58901  V
** sourceTransconductance: 1.94501  V
** inner: 0.640001  V


.END