** Name: SimpleTwoStageOpAmp_SimpleOpAmp35_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp35_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=570e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=9e-6
mDiodeTransistorPmos6 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=2e-6 W=247e-6
mDiodeTransistorPmos7 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=165e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mNormalTransistorNmos9 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=570e-6
mNormalTransistorNmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=27e-6
mNormalTransistorNmos11 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=27e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=157e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=128e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=134e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=279e-6
mNormalTransistorPmos17 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=247e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=165e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp35_9

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 14.9901 mW
** Area: 4500 (mu_m)^2
** Transit frequency: 40.7451 MHz
** Transit frequency with error factor: 40.7129 MHz
** Slew rate: 38.4008 V/mu_s
** Phase margin: 55.004°
** CMRR: 110 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.890001 V
** VcmMax: 3.94001 V
** VcmMin: 1.28001 V


** Expected Currents: 
** NormalTransistorNmos: 3.33501 muA
** NormalTransistorPmos: -49.0849 muA
** DiodeTransistorPmos: -51.4259 muA
** DiodeTransistorPmos: -51.4269 muA
** NormalTransistorPmos: -51.4259 muA
** NormalTransistorPmos: -51.4269 muA
** NormalTransistorNmos: 102.85 muA
** NormalTransistorNmos: 102.849 muA
** NormalTransistorNmos: 51.4251 muA
** NormalTransistorNmos: 51.4251 muA
** NormalTransistorNmos: 2832.8 muA
** DiodeTransistorNmos: 2832.8 muA
** NormalTransistorPmos: -2832.79 muA
** DiodeTransistorNmos: 49.0841 muA
** NormalTransistorNmos: 49.0841 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -3.33599 muA


** Expected Voltages: 
** ibias: 1.22801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.29401  V
** inputVoltageBiasXXpXX0: 4.18701  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.647001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 3.53401  V
** innerSourceLoad1: 4.25  V
** innerStageBias: 0.654001  V
** innerTransistorStack2Load1: 4.25  V
** sourceTransconductance: 1.94501  V
** inner: 0.647001  V


.END