** Name: SimpleTwoStageOpAmp_SimpleOpAmp37_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp37_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=4e-6 W=14e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=61e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=386e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=12e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=25e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=386e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=85e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=44e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=49e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=44e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=175e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=81e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=61e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=234e-6
mNormalTransistorPmos16 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=310e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=390e-6
mNormalTransistorPmos18 FirstStageYinnerSourceLoad1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=3e-6 W=310e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=65e-6
mNormalTransistorPmos20 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=65e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp37_9

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 14.5191 mW
** Area: 9105 (mu_m)^2
** Transit frequency: 35.6131 MHz
** Transit frequency with error factor: 35.5846 MHz
** Slew rate: 33.5643 V/mu_s
** Phase margin: 55.004°
** CMRR: 98 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.940001 V
** VcmMax: 4.81001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorNmos: 23.5671 muA
** NormalTransistorNmos: 40.6121 muA
** NormalTransistorPmos: -369.949 muA
** NormalTransistorPmos: -41.9029 muA
** NormalTransistorPmos: -41.9039 muA
** NormalTransistorPmos: -41.9029 muA
** NormalTransistorPmos: -41.9039 muA
** NormalTransistorNmos: 83.8031 muA
** NormalTransistorNmos: 83.8021 muA
** NormalTransistorNmos: 41.9021 muA
** NormalTransistorNmos: 41.9021 muA
** NormalTransistorNmos: 2375.9 muA
** DiodeTransistorNmos: 2375.9 muA
** NormalTransistorPmos: -2375.89 muA
** DiodeTransistorNmos: 369.95 muA
** NormalTransistorNmos: 369.949 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -23.5679 muA
** DiodeTransistorPmos: -40.6129 muA


** Expected Voltages: 
** ibias: 1.14301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.34801  V
** outSourceVoltageBiasXXnXX1: 0.674001  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** outVoltageBiasXXpXX0: 3.82601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.83601  V
** innerStageBias: 0.516001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V
** inner: 0.674001  V


.END