** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYinnerLoad2 FirstStageYinnerLoad2 sourceNmos sourceNmos nmos4 L=7e-6 W=489e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=8e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=150e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mNormalTransistorNmos5 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=236e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=281e-6
mNormalTransistorNmos7 outFirstStage FirstStageYinnerLoad2 sourceNmos sourceNmos nmos4 L=7e-6 W=489e-6
mNormalTransistorNmos8 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=158e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=536e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=158e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=143e-6
mNormalTransistorPmos12 FirstStageYinnerLoad2 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=350e-6
mNormalTransistorPmos13 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=350e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=120e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=532e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=120e-6
Capacitor1 outFirstStage out 4.90001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_1

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 10.6451 mW
** Area: 12974 (mu_m)^2
** Transit frequency: 33.5591 MHz
** Transit frequency with error factor: 33.5346 MHz
** Slew rate: 30.913 V/mu_s
** Phase margin: 55.577°
** CMRR: 109 dB
** VoutMax: 4.67001 V
** VoutMin: 0.150001 V
** VcmMax: 5.08001 V
** VcmMin: 0.810001 V


** Expected Currents: 
** NormalTransistorNmos: 345.215 muA
** NormalTransistorNmos: 293.07 muA
** NormalTransistorPmos: -142.146 muA
** NormalTransistorPmos: -229.884 muA
** NormalTransistorPmos: -142.146 muA
** NormalTransistorPmos: -229.884 muA
** DiodeTransistorNmos: 142.147 muA
** NormalTransistorNmos: 142.147 muA
** NormalTransistorNmos: 175.475 muA
** NormalTransistorNmos: 87.7371 muA
** NormalTransistorNmos: 87.7371 muA
** NormalTransistorNmos: 1020.89 muA
** NormalTransistorPmos: -1020.88 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -345.214 muA
** DiodeTransistorPmos: -293.069 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.10701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerLoad2: 0.560001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.93301  V


.END