** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=11e-6
mDiodeTransistorNmos2 FirstStageYinnerLoad2 FirstStageYinnerLoad2 sourceNmos sourceNmos nmos4 L=9e-6 W=353e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=3e-6 W=59e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=25e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=512e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=148e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=205e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=275e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=338e-6
mNormalTransistorNmos10 outFirstStage FirstStageYinnerLoad2 sourceNmos sourceNmos nmos4 L=9e-6 W=353e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=80e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=80e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=322e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=3e-6 W=512e-6
mNormalTransistorPmos15 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=284e-6
mNormalTransistorPmos16 FirstStageYinnerLoad2 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=284e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=211e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=211e-6
mNormalTransistorPmos19 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=59e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_5

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 13.5641 mW
** Area: 14200 (mu_m)^2
** Transit frequency: 37.2291 MHz
** Transit frequency with error factor: 37.188 MHz
** Slew rate: 50.2392 V/mu_s
** Phase margin: 55.004°
** CMRR: 101 dB
** VoutMax: 3 V
** VoutMin: 0.230001 V
** VcmMax: 5.10001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** NormalTransistorNmos: 183.505 muA
** NormalTransistorNmos: 246.885 muA
** NormalTransistorPmos: -201.762 muA
** NormalTransistorPmos: -345.88 muA
** NormalTransistorPmos: -201.762 muA
** NormalTransistorPmos: -345.88 muA
** DiodeTransistorNmos: 201.763 muA
** NormalTransistorNmos: 201.763 muA
** NormalTransistorNmos: 288.236 muA
** NormalTransistorNmos: 144.118 muA
** NormalTransistorNmos: 144.118 muA
** NormalTransistorNmos: 1580.64 muA
** NormalTransistorPmos: -1580.63 muA
** DiodeTransistorPmos: -1580.63 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -183.504 muA
** NormalTransistorPmos: -183.505 muA
** DiodeTransistorPmos: -246.884 muA
** DiodeTransistorPmos: -246.885 muA


** Expected Voltages: 
** ibias: 0.584001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.43601  V
** inputVoltageBiasXXpXX2: 2.82101  V
** out: 2.5  V
** outFirstStage: 0.639001  V
** outSourceVoltageBiasXXpXX1: 3.71701  V
** outSourceVoltageBiasXXpXX2: 4.13201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerLoad2: 0.651001  V
** sourceGCC1: 3.58401  V
** sourceGCC2: 3.58401  V
** sourceTransconductance: 1.84201  V
** inner: 3.71901  V


.END